US04379154
A 10 N aqueous solution of sodium hydroxide (144 cc) is added dropwise, in the course of 25 minutes and whilst keeping the temperature below 12° C., to a solution of 2-(pyrid-3-ylmethyl)-isothiourea dihydrochloride (173 g) in distilled water (330 cc), cooled to 4° C. After heating for 25 minutes at 70° C. and then cooling to 11° C., a 10 N aqueous solution of sodium hydroxide (89 cc) and then 1-bromo-4-chlorobutane (123.5 g) are added, whilst stirring, and stirring is continued for 15 hours at a temperature of about 20° C. The reaction mixture is then extracted four times with methylene chloride (560 cc in total); the organic extracts are combined, washed twice with distilled water (800 cc in total), dried over anhydrous sodium sulphate and filtered. The solution is poured onto neutral silica gel (150 g) contained in a column of diameter 3.7 cm; the column is eluted with methylene chloride (2500 cc). The first fraction (600 cc) is discarded. The second (2500 cc) is concentrated to dryness under reduced pressure (25 mm Hg; 3.4 kPa) without exceeding 30° C. Pyrid-3-ylmethyl 4-chlorobutyl sulphide (110 g) is thus obtained.

reactant | sodium hydroxide | 144 cc | [OH-].[Na+]
reactant | 2-(pyrid-3-ylmethyl)-isothiourea dihydrochloride | 173 g | Cl.Cl.N1=CC(=CC=C1)CSC(N)=N
reactant | sodium hydroxide | 89 cc | [OH-].[Na+]
reactant | 1-bromo-4-chlorobutane | 123.5 g | BrCCCCCl | C4H8BrCl
solvent | water | 330 cc | O | H2O
product | Pyrid-3-ylmethyl 4-chlorobutyl sulphide | 110 g | ClCCCCSCC=1C=NC=CC1 | C10H14ClNS
